US05606030
1. Preparation of 3-Maleimidopropionic Acid Anhydride
3-Maleimidopropionic acid (226 mg) was covered with 5 mL of acetic anhydride and the mixture was heated at 130° C. for 3.75 hour, and then aged over night at room temperature. The solution was concentrated to an oil and the NMR spectrum (CDCl3) indicated a mixture of the homoanhydride and the mixed anhydride of acetic and maleimidopropionic acids. The starting acid shows the methylen adjacent to the carbonyl as a triplet centered at 2.68 ppm whereas in the anhydride these resonances appear at 2.81 ppm. Purification was effected by fractional sublimation, first at 70° C. and 0.2 mm and then at 120° C. and 0.2 mm. The latter fraction was removed from the sublimer by dissolving in CDCl3, affording 34 mg of pure homanhydride on evaporation of the solvent. This was recrystallized from CDCl3 and cyclohexane affording material melting at 143°-147° C.

reactant | 3-Maleimidopropionic acid | 226 mg | C1(C=CC(N1CCC(=O)O)=O)=O | C7H7NO4
reactant | acetic anhydride | 5 mL | C(C)(=O)OC(C)=O | C4H6O3
product | 3-Maleimidopropionic Acid Anhydride | C1(C=CC(N1CCC(=O)OC(CCN1C(C=CC1=O)=O)=O)=O)=O | C14H12N2O7
